US08013117B2
Ser(tBu)-Tyr(tBu)-OAllyl
According to the general procedure for Fmoc-cleavage, 9 g Fmoc-Ser(tBu)-Tyr(tBu)-OMe, 22 ml TAEA in ethyl acetate yielded 4.7 g of crude product (yield based on HPLC: 88%).

reactant | Fmoc-Ser(tBu)-Tyr(tBu)-OMe | 9 g | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C36H44N2O7
reactant | TAEA | 22 ml | C(CN(CCN)CCN)N | C6H18N4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ser(tBu)-Tyr(tBu)-OAllyl | 4.7 g, 88% | N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OCC=C | C23H36N2O5
